US09120749B2
tert-Butyl 4-{5-[3-butyryl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-ylamino]pyridin-2-yl}piperazine-1-carboxylate
Following general procedure F, tert-butyl 4-[5-(6-bromo-3-butyrylquinolin-4-ylamino)pyridin-2-yl]piperazine-1-carboxylate (80 mg, 0.144 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (59 mg, 0.216 mmol) to afford the crude product (66 mg) as an orange solid: ESI MS m/z 620 [C33H35ClFN5O4+H]+.

reactant | tert-butyl 4-[5-(6-bromo-3-butyrylquinolin-4-ylamino)pyridin-2-yl]piperazine-1-carboxylate | 0.144 mmol, 80 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C27H32BrN5O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.216 mmol, 59 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | tert-Butyl 4-{5-[3-butyryl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-ylamino]pyridin-2-yl}piperazine-1-carboxylate | 66 mg | C(CCC)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)O)Cl | C33H35ClFN5O4
